US09371292B2
Starting material: N4-(4-bromo-3-chloro-2-fluorophenyl)-7-methoxyquinazoline-4,6-diamine was prepared according to the same method of preparation of N4-(3-chloro-4-fluorophenyl)-7-(2-methoxy)ethoxyquinazoline-4,6-diamine in WO2008/33747, but the starting materials were 4-chloro-7-methoxy-6-nitro-quinazoline and 4-bromo-3-chloro-2-fluoro-aniline; other starting materials were prepared as example 1.

reactant | N4-(3-chloro-4-fluorophenyl)-7-(2-methoxy)ethoxyquinazoline-4,6-diamine | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)N)OCCOC | C17H16ClFN4O2
reactant | 4-chloro-7-methoxy-6-nitro-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OC | C9H6ClN3O3
reactant | 4-bromo-3-chloro-2-fluoro-aniline | BrC1=C(C(=C(N)C=C1)F)Cl | C6H4BrClFN
product | N4-(4-bromo-3-chloro-2-fluorophenyl)-7-methoxyquinazoline-4,6-diamine | BrC1=C(C(=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)N)OC)F)Cl | C15H11BrClFN4O
